US09303007B2
Nitrogen was bubbled through a solution of (1R,3S,5R)-tert-butyl 3-(5-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (400 mg, 0.880 mmol), (1R,3S,5R)-tert-butyl 3-(5-ethynyl-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (313 mg, 1.14 mmol) and Cu(I)I (8.4 mg, 0.044 mmol) in triethylamine (0.37 mL, 2.6 mmol) and DMF (8 mL) for 10 min. Then Pd(PPh3)4 (50.9 mg, 0.044 mmol) was added, nitrogen was bubbled through the reaction mixture for 1 min, and then the flask was sealed and heated at 50° C. for 16 h. The reaction was concentrated to under high vacuum) and the residual solids were triturated with EtOAc (˜5 mL) and collected by filtration (rinsing with EtOAc and hexanes) to yield tert-butyl (1R,3S,5R)-3-(4-(6-((2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)ethynyl)-2-naphthyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (595 mg) as a light yellow solid. The material was used without further purification. LC-MS retention time 3.140 min; m/z 647.35 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | (1R,3S,5R)-tert-butyl 3-(5-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.880 mmol, 400 mg | BrC=1C=C2C=CC(=CC2=CC1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C23H24BrN3O2
reactant | (1R,3S,5R)-tert-butyl 3-(5-ethynyl-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 1.14 mmol, 313 mg | C(#C)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C15H19N3O2
reactant | triethylamine | 2.6 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.044 mmol, 50.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl (1R,3S,5R)-3-(4-(6-((2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)ethynyl)-2-naphthyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 595 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C=1NC=C(N1)C#CC=1C=C2C=CC(=CC2=CC1)C=1N=C(NC1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C38H42N6O4
